US04064135
This example illustrates the process of the invention for preparing 1,2-epoxy-3-(5-substituted aminocarbonylthiazole-2-yloxy)propane. In this example 0.0525 mole of sodium hydride in a 50% mineral oil mixture is stirred in 300 ml. of anhydrous tetrahydrofuran, under nitrogen, then cooled to -30° C and 0.055 mole of glycidol is added dropwise. The mixture is allowed to warm to -5° C and stirred for 10 minutes and then recooled to -30° C. A solution of 0.05 mole of 2-ethylsulfinyl-5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazole in 100 ml. of anhydrous tetrahydrofuran is added dropwise and the resulting mixture allowed to warm to 0° C. Additional solvent is added as needed to facilitate stirring. The mixture is maintained for 30 minutes at 0° C and then poured into 500 ml. of ethyl acetate, extracted with 100 ml. of water, and then with 100 ml. of aqueous saturated sodium chloride and dried over anhydrous magnesium sulfate and filtered. The filtrate is evaporated under vacuum affording oily residue which is then further purified by chromatography on silica gel eluting with 40% ethyl acetate-60% hexane, by vol., affording 1,2-epoxy-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)propane.

reactant | sodium hydride | 0.0525 mole | [H-].[Na+]
reactant | glycidol | 0.055 mole | C1C(O1)CO | C3H6O2
reactant | 2-ethylsulfinyl-5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazole | 0.05 mole | C(C)S(=O)C=1SC(=CN1)C(=O)NCCC1C2CCC1CC2 | C15H22N2O2S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2-epoxy-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)propane | O1CC1COC=1SC(=CN1)C(=O)NCCC1C2CCC1CC2 | C16H22N2O3S
